datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C)(C)CC#CC(=O)[O-:10].[NH3+]c1cccc(C(=O)N[NH2+:21][H:20])c1>>CC(C)(C)CC#CC(=O)[O:10][H:20].[NH3+]c1cccc(C(=O)N[NH2:21])c1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1ccc(C[NH2:10])cc1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1ccc(C[NH2+:10][H:20])cc1 10=20;20,21=21",
"CC(CC(C#N)(c1ccccc1)c1ccccc1)[N:10]1CCOCC1.Cc1c([NH2+:21][H:20])ccc2c1-c1ccccc1C2>>CC(CC(C#N)(c1ccccc1)c1ccccc1)[N+:10]1([H:20])CCOCC1.Cc1c([NH2:21])ccc2c1-c1ccccc1C2 10=20;20,21=21",
"CC(=O)c1ccc(/N=N/c2c(N)[nH][n:10]c2N)cc1.O=[Se](c1ccccc1-c1ccccc1)[O:21][H:20]>>CC(=O)c1ccc(/N=N/c2c(N)[nH][n+:10]([H:20])c2N)cc1.O=[Se](c1ccccc1-c1ccccc1)[O-:21] 10=20;20,21=21",
"COCCCC[NH+:21](c1ccccc1)[H:20].COc1ccc2c(c1)c(N)cc[n:10]2>>COCCCC[NH:21]c1ccccc1.COc1ccc2c(c1)c(N)cc[n+:10]2[H:20] 10=20;20,21=21",
"Nc1cccc(C(=O)[N:21](N)[H:20])c1.O=P([O-])([O-])C(c1ccccc1[O-])[NH:10]Cc1ccccn1>>Nc1cccc(C(=O)[N-:21]N)c1.O=P([O-])([O-])C(c1ccccc1[O-])[NH+:10](Cc1ccccn1)[H:20] 10=20;20,21=21",
"C[NH+:21](C(CO)CO)[H:20].NC1=NS(=O)(=O)[N-]c2nc[n-:10]c21>>C[NH:21]C(CO)CO.NC1=NS(=O)(=O)[N-]c2nc[n:10]([H:20])c21 10=20;20,21=21",
"O=C(CC(c1ccccc1)c1ccccc1Cl)[O:21][H:20].O=C(CCCC[N:10]1CCOCC1)c1ccccc1>>O=C(CC(c1ccccc1)c1ccccc1Cl)[O-:21].O=C(CCCC[N+:10]1([H:20])CCOCC1)c1ccccc1 10=20;20,21=21",
"Clc1ccc([O:21][H:20])cc1Cl.[NH-]S(=O)(=O)c1nnc([N-:10]c2ccccc2)s1>>Clc1ccc([O-:21])cc1Cl.[NH-]S(=O)(=O)c1nnc([N:10](c2ccccc2)[H:20])s1 10=20;20,21=21",
"C=C(C)C=C(C(=O)[O:21][H:20])c1ccc([N+](=O)[O-])cc1.O=C([O-])c1c2ccccc2cc[n:10]1>>C=C(C)C=C(C(=O)[O-:21])c1ccc([N+](=O)[O-])cc1.O=C([O-])c1c2ccccc2cc[n+:10]1[H:20] 10=20;20,21=21",
"CC[N:10](CC)CCSCC(C)C.[H:20][Cl:21]>>CC[N+:10](CC)(CCSCC(C)C)[H:20].[Cl-:21] 10=20;20,21=21",
"CCOc1ccc2c(c1)c(N)cc(/C=C/c1ccccc1)[n+:21]2[H:20].CCc1c([O-:10])nn(-c2ccccc2C(=O)[O-])c1C>>CCOc1ccc2c(c1)c(N)cc(/C=C/c1ccccc1)[n:21]2.CCc1c([O:10][H:20])nn(-c2ccccc2C(=O)[O-])c1C 10=20;20,21=21",
"Cc1c(N)cnc[n+:21]1[H:20].Cc1cc(N)cc[n:10]1>>Cc1c(N)cnc[n:21]1.Cc1cc(N)cc[n+:10]1[H:20] 10=20;20,21=21",
"CC(C)[NH:10]CC(O)COc1ccc(CC(N)=O)cc1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(C)[NH+:10](CC(O)COc1ccc(CC(N)=O)cc1)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"Cc1ccc(S(=O)(=O)N2CC[NH:10]CC2)cc1.O=C([C@]1(Cl)[C@@H]2CCC[C@@H]21)[O:21][H:20]>>Cc1ccc(S(=O)(=O)N2CC[NH+:10]([H:20])CC2)cc1.O=C([C@]1(Cl)[C@@H]2CCC[C@@H]21)[O-:21] 10=20;20,21=21",
"COc1ccc([N+](=O)[O-])c2ccc[n:10]c12.CSc1cc[n+:21]([H:20])cc1>>COc1ccc([N+](=O)[O-])c2ccc[n+:10]([H:20])c12.CSc1cc[n:21]cc1 10=20;20,21=21",
"CCN(CC)C(=S)[N:21](C(=O)c1ccc(F)cc1)[H:20].O=[N+]([O-])c1cc([O-:10])ccc1[O-]>>CCN(CC)C(=S)[N-:21]C(=O)c1ccc(F)cc1.O=[N+]([O-])c1cc([O:10][H:20])ccc1[O-] 10=20;20,21=21",
"CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1.C[NH:10]CCCc1ccccc1>>CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1.C[NH+:10](CCCc1ccccc1)[H:20] 10=20;20,21=21",
"CN(C)CC[N:10](C)CCN(C)C.Cc1csc[n+:21]1[H:20]>>CN(C)CC[N+:10](C)(CCN(C)C)[H:20].Cc1csc[n:21]1 10=20;20,21=21",
"CCOCC[N+:21](CCOCC)(c1ccccc1)[H:20].O=S1(=O)Cc2cc(Br)ccc2N=C[N-:10]1>>CCOCC[N:21](CCOCC)c1ccccc1.O=S1(=O)Cc2cc(Br)ccc2N=C[N:10]1[H:20] 10=20;20,21=21",
"COc1ccc(OC)[n+:21]([H:20])n1.c1ccc(CSc2nc(SCc3ccccc3)[n-:10]c2-c2ccccc2)cc1>>COc1ccc(OC)[n:21]n1.c1ccc(CSc2nc(SCc3ccccc3)[n:10]([H:20])c2-c2ccccc2)cc1 10=20;20,21=21",
"O=C([O-])[C@@H]1C[C@@H](O)C[NH:10]1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])[C@@H]1C[C@@H](O)C[NH+:10]1[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1.c1c(CN2CCNCC[NH:10]CC2)n[nH]c1CN1CCNCCNCC1>>CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1.c1c(CN2CCNCC[NH+:10]([H:20])CC2)n[nH]c1CN1CCNCCNCC1 10=20;20,21=21",
"C1C[NH+](CC[N+:21]2([H:20])CCOCC2)CCO1.O=C1C[C@H](C(=O)[O-:10])[C@@H](C(=O)[O-])O1>>C1C[NH+](CC[N:21]2CCOCC2)CCO1.O=C1C[C@H](C(=O)[O:10][H:20])[C@@H](C(=O)[O-])O1 10=20;20,21=21",
"CCC[N+:21](C)(N)[H:20].Cc1nc2c(n1C)C(=O)c1nc[n:10]c([O-])c1C2=O>>CCC[N:21](C)N.Cc1nc2c(n1C)C(=O)c1nc[n+:10]([H:20])c([O-])c1C2=O 10=20;20,21=21",
"CC[N+:21](CC)(CC(C)=N[O-])[H:20].COc1cc(C(N)=O)ccc1-c1nc2nn(C)cc2[n-:10]1>>CC[N:21](CC)CC(C)=N[O-].COc1cc(C(N)=O)ccc1-c1nc2nn(C)cc2[n:10]1[H:20] 10=20;20,21=21",
"NCCNCC[NH2:10].Nc1c2ccccc2cn[n+:21]1[H:20]>>NCCNCC[NH2+:10][H:20].Nc1c2ccccc2cn[n:21]1 10=20;20,21=21",
"C=C(C)C(=O)OCC[NH:10]CC.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C=C(C)C(=O)OCC[NH+:10](CC)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(CN)[NH2+:21][H:20].CCCC[NH:10]CC(=O)c1ccc(O)cc1>>CC(CN)[NH2:21].CCCC[NH+:10](CC(=O)c1ccc(O)cc1)[H:20] 10=20;20,21=21",
"C#CCN[NH2:10].[NH3+]CCC(=O)NC(Cc1c[nH]c[nH+]1)C(=O)[O:21][H:20]>>C#CCN[NH2+:10][H:20].[NH3+]CCC(=O)NC(Cc1c[nH]c[nH+]1)C(=O)[O-:21] 10=20;20,21=21",
"CCCCCn1cc[n+:21]([H:20])c1.CO[n+]1ccccc1[NH-:10]>>CCCCCn1cc[n:21]c1.CO[n+]1ccccc1[NH:10][H:20] 10=20;20,21=21",
"Nc1nc2cc3ccccc3cc2[n-:10]1.OC(CN1CCOCC1)C[N+:21]1([H:20])CCOCC1>>Nc1nc2cc3ccccc3cc2[n:10]1[H:20].OC(CN1CCOCC1)C[N:21]1CCOCC1 10=20;20,21=21",
